US07977331B1
A solution of N-tert-butyl-4-methyl-3-nitrobenzenesulfonamide (5.89 g, 21.6 mmol) in N,N-dimethylformamide dimethyl acetal (10 ml) was stirred with heating at 110° C. for 10 hr. The reaction solvent was evaporated under reduced pressure and diethyl ether was added. The precipitated solid was collected by filtration, washed with diethyl ether and dried in vacuo to give N-tert-butyl-4-((E)-2-dimethylaminovinyl)-3-nitrobenzenesulfonamide (5.41 g, yield 76.6%).

reactant | N-tert-butyl-4-methyl-3-nitrobenzenesulfonamide | 21.6 mmol, 5.89 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C11H16N2O4S
reactant | N,N-dimethylformamide dimethyl acetal | 10 ml | COC(N(C)C)OC | C5H13NO2
product | N-tert-butyl-4-((E)-2-dimethylaminovinyl)-3-nitrobenzenesulfonamide | 5.41 g, yield 76.6% | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)\C=C\N(C)C)[N+](=O)[O-] | C14H21N3O4S
